US09085581B2
To a mixture of sulfuric acid (80.0 mL, 1.50 mol) dissolved in Ethanol (450 mL) at 0° C. was added (4-(benzyloxy)phenyl)hydrazine hydrochloride (90.0 g, 359 mmol) to form a suspension. To the suspension was added ethyl 2-oxopropanoate (43.9 mL, 395 mmol) in EtOH (90 mL) and mechanically stirred for 2 h using a mechanical stirrer. The mixture was heated to 45° C. and maintained for 16 h. The mixture was cooled to room temperature and cold EtOH (200 mL) was added. The mixture was filtered through a course frit. The collected solid was washed sequentially with cold EtOH, hexanes, and water. The solid was dried in a vacuum oven (45° C., 2 Ton) to give ethyl 5-(benzyloxy)-1H-indole-2-carboxylate (73.1 g, 247 mmol, 69% yield). Exact mass calculated for C18H17NO3: 295.1, found: LCMS m/z=296.2, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.41 (t, J=7.1 Hz, 3 H), 4.40 (q, J=7.1 Hz, 2 H), 5.10 (s, 2 H), 7.08 (dd, J1=8.9, J2=2.4 Hz, 1 H), 7.14 (d, J=1.6 Hz, 1 H), 7.20 (d, J=2.3 Hz, 1 H), 7.32 (m, 2 H), 7.39 (m, 2 H), 7.47 (m, 2 H), 8.75 (bs, 1 H).

reactant | sulfuric acid | 1.50 mol, 80.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | (4-(benzyloxy)phenyl)hydrazine hydrochloride | 359 mmol, 90.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | ethyl 2-oxopropanoate | 395 mmol, 43.9 mL | O=C(C(=O)OCC)C | C5H8O3
solvent | Ethanol | 450 mL | C(C)O | C2H6O
solvent | EtOH | 90 mL | CCO | C2H6O
solvent | EtOH | 200 mL | CCO | C2H6O
product | ethyl 5-(benzyloxy)-1H-indole-2-carboxylate | 247 mmol, 73.1 g, 69% yield | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
